US07662771B2
5-[4-(5-Chloro-2-hydroxy-phenyl)-oxazol-2-yl]-pentanoic acid disodium salt
Combine 5-[4-(5-Chloro-2-hydroxy-phenyl)-oxazol-2-yl]-pentanoic acid (2.71 g, 9.2 mmol) with THF (10 mL), MeOH (10 mL) and 1N NaOH (18.4 mL) and stir at RT for 2 h. Concentrate the mixture and dry the residue overnight in vacuo at 40-50° C. to allow for recovery of 5-[4-(5-Chloro-2-hydroxy-phenyl)-oxazol-2-yl]-pentanoic acid disodium salt (3.0 g, 96%). MS (ES): (M+1)+ 296.1, 298.1 m/z.

reactant | 5-[4-(5-Chloro-2-hydroxy-phenyl)-oxazol-2-yl]-pentanoic acid | 9.2 mmol, 2.71 g | ClC=1C=CC(=C(C1)C=1N=C(OC1)CCCCC(=O)O)O | C14H14ClNO4
reactant | THF | 10 mL | C1CCOC1 | C4H8O
reactant | NaOH | 1N, 18.4 mL | [OH-].[Na+]
solvent | MeOH | 10 mL | CO | CH4O
product | 5-[4-(5-Chloro-2-hydroxy-phenyl)-oxazol-2-yl]-pentanoic acid disodium salt | [Na+].[Na+].ClC=1C=CC(=C(C1)C=1N=C(OC1)CCCCC(=O)[O-])O.ClC=1C=CC(=C(C1)C=1N=C(OC1)CCCCC(=O)[O-])O | InChI=1S/2C14H14ClNO4.2Na/c2*15-9-5-6-12(17)10(7-9)11-8-20-13(16-11)3-1-2-4-14(18)19;;/h2*5-8,17H,1-4H2,(H,18,19);;/q;;2*+1/p-2
